US07612114B2
[4-(2-Azepan-1-ylethoxy)benzyl]{5-(tert-butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}(2,2,2-trifluoroethyl)amine
A mixture of [4-(2-azepan-1-ylethoxy)benzyl]{5-(tert-butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}amine (350 mg), trifluoroacetic anhydride (1 ml) and pyridine (1 ml) was stirred for 1 hour at room temperature. The reaction solution was concentrated in vacuo, and a saturated aqueous solution of sodium bicarbonate was added thereto. The solution was extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. To a solution of the resulting residue in tetrahydrofuran (10 ml) was added borane-methyl sulfide complex (0.25 ml), the solution was refluxed for 5 hours, then ice water, diethyl ether and concentrated hydrochloric acid (0.5 ml) were added thereto followed by stirring overnight at room temperature. The reaction solution was alkalinized by adding a saturated aqueous solution of sodium bicarbonate, the solution was extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (130 mg).

reactant | [4-(2-azepan-1-ylethoxy)benzyl]{5-(tert-butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}amine | 350 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC(=C2)O[Si](C)(C)C(C)(C)C)C2CC3=CC=C(C=C3CC2)O[Si](C)(C)C(C)(C)C)C=C1 | C43H66N2O3Si2
reactant | trifluoroacetic anhydride | 1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | [4-(2-Azepan-1-ylethoxy)benzyl]{5-(tert-butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}(2,2,2-trifluoroethyl)amine | 130 mg | N1(CCCCCC1)CCOC1=CC=C(CN(CC(F)(F)F)C2=C(C=CC(=C2)O[Si](C)(C)C(C)(C)C)C2CC3=CC=C(C=C3CC2)O[Si](C)(C)C(C)(C)C)C=C1 | C45H67F3N2O3Si2
